US07169932B2
A solution of (R)-5,5-Dimethyl-thiazolidine-3,4-dicarboxylic acid 3-tert-butyl ester (105 kg, 402 mol) and ethyl acetate (690 L) was treated with diphenylchlorophosphate (113 kg, 422 mol) and was then cooled to 0° C. NEt3 (85.5 kg, 844 mol) was added while maintaining the temperature at 5° C., and the mixture was then held at this temperature for 2 h. The mixture was cooled to 0° C., and allylamine (24.1 kg, 422 mol) was then added while maintaining the temperature at 5° C. The mixture was warmed to 20° C. and was then quenched with 10 wt. % aqueous HCl (310 L). After separation ofthe layers, the organic fraction was washed with 8.6 wt. % aqueous Na2CO3 (710 L). After separation of the layers, the aqueous fraction was extracted with ethyl acetate (315 L). The combined ethyl acetate extracts containing AG-074278 were dried by azeotropic distillation at one atmosphere, while maintaining a minimum pot volume of approximately 315 L. The resulting suspension of (R)-4-Allylcarbamoyl-5,5-dimethyl-thiazolidine-3-carboxylic acid tert-butyl ester was cooled to 5° C. A 13 wt. % solution of anhydrous HCl (36.8 kg, 1008 mol) in ethyl acetate (263 L) was cooled to 5° C. and was then added to the (R)-4-Allylcarbamoyl-5,5-dimethyl-thiazolidine-3-carboxylic acid tert-butyl ester suspension while maintaining the temperature at 15° C. The resulting suspension was held at 20° C. for 19 h, and was then cooled and held at 5° C. for 2 h. The suspension was then filtered, using cold ethyl acetate for rinsing. The wet cake was dried under vacuum at 45° C. to give 90.5 kg (95.2%) of (R)-5,5-Dimethyl-thiazolidine-4-carboxylic acid allylamide hydrochloride as a white solid: 1H NMR (300 MHz, DMSO-d6) δ 8.94 (app t, J=5.5 Hz, 1H), 5.82 (ddt, J=10.4, 17.2, 5.2 Hz, 1H), 5.19–5.25 (m, 1H), 5.10–5.14(m, 1H),4.38(ABq, JAB=9.8Hz, Δν=14.5Hz, 2H),4.08(s, 1H), 3.72–3.91 (m, 2H), 1.58 (s, 3H), 1.32 (s, 3H); 13C NMR (75 MHz, DMSO-d6) δ 161.7, 132.2, 114.0, 67.9, 51.4, 43.5, 39.3, 25.3, 24.3; MS (CI) m/z 201.1070 (201.1062 calcd for C9H17N2OS, M+H+); elemental analysis calcd for C9H17ClN2OS: C, 45.65; H, 7.24; N, 11.83; Cl, 14.97; found: C, 45.41; H, 7.33; N, 11.69; Cl, 15.22.

reactant | (R)-5,5-Dimethyl-thiazolidine-3,4-dicarboxylic acid 3-tert-butyl ester | 402 mol, 105 kg | C(C)(C)(C)OC(=O)N1CSC([C@H]1C(=O)O)(C)C | C11H19NO4S
reactant | diphenylchlorophosphate | 422 mol, 113 kg | C1(=CC=CC=C1)OP(=O)(OC1=CC=CC=C1)Cl | C12H10ClO3P
reactant | NEt3 | 844 mol, 85.5 kg | CCN(CC)CC | C6H15N
reactant | allylamine | 422 mol, 24.1 kg | C(C=C)N | C3H7N
reactant | HCl | 1008 mol, 36.8 kg | Cl | ClH
reactant | (R)-4-Allylcarbamoyl-5,5-dimethyl-thiazolidine-3-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CSC([C@H]1C(NCC=C)=O)(C)C | C14H24N2O3S
solvent | ethyl acetate | 263 L | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 690 L | C(C)(=O)OCC | C4H8O2
product | (R)-5,5-Dimethyl-thiazolidine-4-carboxylic acid allylamide hydrochloride | 90.5 kg, 95.2% | Cl.C(C=C)NC(=O)[C@H]1NCSC1(C)C | InChI=1S/C9H16N2OS.ClH/c1-4-5-10-8(12)7-9(2,3)13-6-11-7;/h4,7,11H,1,5-6H2,2-3H3,(H,10,12);1H/t7-;/m1./s1
